2143-07-23 07:20:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2143-7-22**] 05:10 PM
 PRESEP CATHETER - START [**2143-7-22**] 05:13 PM
 ARTERIAL LINE - START [**2143-7-22**] 09:13 PM
   Febrile to 101.3 with no hemodynamic changes.  BCx already sent in
   [**Location (un) 1415**].  UCx collected.
   * a couple 6 beat runs of VT
   Levo titrated down to MAP >65, on and off 0-5 mcg finally off around
   0400.
   Noncon CTH for likely fall in setting of elevated coags.
   Ordered IP for R thoracentesis.
   K given and FFP ready to give in the AM.
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2143-7-22**] 07:30 PM
   Azithromycin - [**2143-7-22**] 10:09 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2143-7-22**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-23**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.7
   HR: 83 (75 - 110) bpm
   BP: 94/57(67) {92/45(59) - 119/64(78)} mmHg
   RR: 17 (14 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 8 (7 - 15)mmHg
   CO/CI (Fick): (9.5 L/min) / (4.6 L/min/m2)
   SvO2: 80%
                               Total In:
                                                                  4,441 mL
                                                                  1,304 mL
   PO:
                               TF:
   IVF:
                                                                  1,941 mL
                                                                  1,076 mL
   Blood products:
   227 mL
   Total out:
                                                                    260 mL
                                                                    150 mL
   Urine:
                                                                    200 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,181 mL
                                                                  1,154 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.39/47/91.[**Numeric Identifier 96**]/26/2
   Ve: 7.7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   13.5 g/dL
   198 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   51 mg/dL
   107 mEq/L
   142 mEq/L
   41.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2143-7-22**]  01:54 PM
                             [**2143-7-22**]  04:19 PM
                             [**2143-7-22**]  05:47 PM
                             [**2143-7-22**]  06:45 PM
                             [**2143-7-22**]  07:08 PM
                             [**2143-7-22**]  09:41 PM
                             [**2143-7-23**]  03:57 AM
                             [**2143-7-23**]  04:07 AM
   WBC
   14.2
   Hct
   41.3
   41.7
   Plt
   144
   Cr
   1.0
   0.9
   TropT
   0.04
   TCO2
   30
   29
   30
   Glucose
   [**Telephone/Fax (3) 3332**]
   Other labs: PT / PTT / INR:28.6/49.2/2.8, CK / CKMB /
   Troponin-T:315/13/0.04, ALT / AST:333/371, Alk Phos / T Bili:61/3.4,
   Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:1.0
   %, Fibrinogen:197 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.7 g/dL,
   LDH:375 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   A/P: 68 yo male with h/o DM receiving no medical care over the past 2
   years presents with 1 week SOB found to have a large right sided
   pleural effusion and likely PNA
   .
   # Hypoxic respiratory failure: Likely secondary to large pleural
   effusion and pneumonia. Unclear chronicity, but per the ED notes, he
   has been having at least 1-3 weeks of SOB. Could be an underlying
   malignancy given the large size of the effusion which is complicated by
   post-obstructive pneumonia. Also, consider aspiration pneumonia with
   complicated parapneumonic effusion versus empyema. Also, consider heart
   failure given elevated BNP and bilateral ground glass opacities and
   recent history of ? orthopnea/PND.  Unclear history in terms of
   exposures, but also consider TB, but less likely.
   - IP versus radiology to mark site for diagnostic/therapeutic
   thoracentesis
   - Would cover for community acquired PNA and possible aspiration
   pneumonia with ceftriaxone/azithromycin/flagyl
   - Send pleural fluid for cell count, cytology, pH, LDH, protein,
   glucose, cytology, AFB
   - wean down FiO2
   - Give FFP and plan for [**Female First Name (un) **] in AM
   .
   # Pleural effusion: Per above, most likely malignancy versus infection
   versus heart failure, but also consider parapneumonic effusion,
   empyema.
   - get diagnostic/therapeutic thoracentesis
   - echocardiogram to evaluate EF
   .
   # Sepsis: On presentation, was mildly tachycardic, but not hypotensive.
   Does have elevated WBC, fever 101.8 and likely PNA.
   - f/u blood and urine cultures
   - Send sputum culture
   - Keep MAP >65
   - ScVo2>70
   - wean off levophed
   - send [**Last Name (un) 45**] stim
   .
   # ARF: Most likely prerenal in the setting of sepsis.
   - continue IVF boluses as need to keep CVP > [**9-10**]
   - monitor creatinine and UOP
   - renally dose meds
   .
   # Elevated LFTS: Most likely shock liver in the setting of hypotension
   and sepsis. Also, consider hepatitis, toxins, ETOH, right sided
   congestion from heart failure. First sample was a grossly hemolyzed
   sample, so needs to be resent.
   - check hep A, B and C serologies, and consider further work-up for
   autoimmune and other causung pending these resultes and trend of LFTs
   - Urine and serum tox screen
   - trend LFTs
   .
   # Elevated cardiac enzymes: Unlikely to be ischemic given no evidence
   of ischemic ECG changes and flat MB with only mildly elevated troponin
   in the setting of renal failure. Does have low voltage, large heart,
   and elevated BNP
   - Check echocardiogram
   - trend cardiac enzymes x 3
   - start ASA after thoracentesis
   - Check ECG in AM
   .
   # Coagulopathy: Has elevated PT and PTT and INR. He is not on any known
   anticoagulation. Plts and HCT are WNL. Could be nutritional component.
   Unknown if he has underlying liver disease.
   - Repeat LFTs as last specimen was hemolyzed
   - Give vitamin k 5 mg SC x1
   - FFP prior to thoracentesis
   .
   # Pannus rash: Appears to have chronic fungal infection with purple
   petechial appearing rash underlying this that may be related to his
   coagulopathy.
   - miconazole powder TID
   - monitor rash for signs of superinfection or spread
   .
   # Bilateral LE ulcerations: Appear to be chronic venous stasis ulcers,
   that do not appear to be actively infected
   - Wound care consult
   - monitor exam
   .
   # Possible head trauma: Has a healing wound on his nose with ecchymoses
   under right eye. He may have had a recent fall, although his family is
   not aware of this.
   - Check head CT given evidence of trauma and coagulopathy and recent
   change in mental status
   .
   # Diabetes: Was on oral meds in the past, but has not been taking these
   meds for some time. Never been on insulin per family.
   - monitor FS Q6H
   - RISS, but if persistently elevated FS>200 would consider string on
   insulin drip
   .
   # FEN: NPO for now, replete lytes
   .
   # PPX: Has elevated INR so will hold on SC heparin, pneumoboots, PPI
   .
   # Contact: brother [**Name (NI) 3326**] [**Name (NI) **] [**Telephone/Fax (1) 3327**]. Oldest sister [**Name (NI) **] [**Name (NI) 3328**]
   [**Telephone/Fax (1) 3329**] will be in tomorrow and most likely would be the one to
   make decisions per his brother, but he has no HCP.
   .
   # Code: presumed full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2143-7-22**] 05:13 PM
   18 Gauge - [**2143-7-22**] 07:00 PM
   Arterial Line - [**2143-7-22**] 09:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-07-23 09:04:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yr man with DM. No med care for 2 years. To ED for SOB, confusion.
   Bilat effusions, R>L
   Agitated in CT, intubated, hypotensive on Levo to MICU. No hx of ETOH,
   Quit sig 20 yrs ago
   24 Hour Events:
 INVASIVE VENTILATION - START [**2143-7-22**] 05:10 PM
 PRESEP CATHETER - START [**2143-7-22**] 05:13 PM
 ARTERIAL LINE - START [**2143-7-22**] 09:13 PM
   Non sustained VT, Levo titrated to off.
   Head CT negative
   Coags elevated on admit; Rx'd with Vit K, FFP this AM
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) 278**] dose of Antibiotics:
   Azithromycin - [**2143-7-22**] 10:09 PM
   Metronidazole - [**2143-7-23**] 05:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2143-7-22**] 08:40 PM
   Other medications:
   micatin, colace, midazolam, RISS, pantoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-23**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 79 (75 - 110) bpm
   BP: 98/50(63) {92/45(59) - 119/64(78)} mmHg
   RR: 16 (14 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 12 (7 - 15)mmHg
   CO/CI (Fick): (4.9 L/min) / (2.4 L/min/m2)
   SvO2: 80%
   Mixed Venous O2% Sat: 69 - 69
                               Total In:
                                                                  4,441 mL
                                                                  1,767 mL
   PO:
                               TF:
   IVF:
                                                                  1,941 mL
                                                                  1,151 mL
   Blood products:
   616 mL
   Total out:
                                                                    260 mL
                                                                    162 mL
   Urine:
                                                                    200 mL
                                                                    162 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,181 mL
                                                                  1,605 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.39/47/91.[**Numeric Identifier 96**]/26/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: sceral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  multiple ulcers on shins, intertrigionous candidiasis in groin,
   Jaundice
   Neurologic: Responds to: Tactile stimuli, Oriented (to): 0, Movement:
   Non -purposeful, Sedated, Tone: Normal
   Labs / Radiology
   13.5 g/dL
   144 K/uL
   198 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   51 mg/dL
   107 mEq/L
   142 mEq/L
   41.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2143-7-22**]  01:54 PM
                             [**2143-7-22**]  04:19 PM
                             [**2143-7-22**]  05:47 PM
                             [**2143-7-22**]  06:45 PM
                             [**2143-7-22**]  07:08 PM
                             [**2143-7-22**]  09:41 PM
                             [**2143-7-23**]  03:57 AM
                             [**2143-7-23**]  04:07 AM
   WBC
   14.2
   Hct
   41.3
   41.7
   Plt
   144
   Cr
   1.0
   0.9
   TropT
   0.04
   TCO2
   30
   29
   30
   Glucose
   [**Telephone/Fax (3) 3332**]
   Other labs: PT / PTT / INR:28.6/49.2/2.8, CK / CKMB /
   Troponin-T:315/13/0.04, ALT / AST:333/371, Alk Phos / T Bili:61/3.4,
   Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:1.0
   %, Fibrinogen:197 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.7 g/dL,
   LDH:375 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   1.  Hypercapneic and hypoxic respiratory failure without known prior
   lung disease.  Large right layering pleural effusion with compression
   atelectasis vs. pneumonia underlying fluid.  Given fever and elevated
   WBC concerned about underlying infection with parapneumonic effusion.
   [**Month (only) 60**] have some component of CHF given cardiomegaly/underlying diabetes
   at risk for silent ischemia, also given low albumin and likely
   malnutrition also component of low oncotic pressure.  Risk for
   aspiration given reported mental status changes.  Cover broadly for
   community acquired organisms.  Wean Fi02 to maintain Sa02 > 93%.  Send
   sputum for gram stain/C & S if available.   Also concerned about
   possible underlying malignancy.
   Team spoke with IP service, plan for FFP and diagnostic/therapeutic
   thorocentesis today.
   2.  Hypotension:  Only declared itself once intubated/sedated
   suggesting intravascular volume depletion. Volume resusitation, off
   pressors
   3.  Acute renal failure without knowledge of baseline.  Is a chronic
   diabetic.  Likley prerenal component given intravascular depletion.  IV
   fluids.  Urine electrolytes.
   4.  Transaminitis:  Could be related to right sided congestion vs.
   shock liver albeit latter doesn't seem likely given only hypotensive as
   above after intubation.  Denies alcohol.  Also has coagulopathy.  Liver
   doesn't appear cirrhotic/fatty infiltrated/any mass on CT.  Need
   hepatitis serologies.  Nutritional component to coagulopathy - will
   give vitamin K and trend.  [**Month (only) 60**] get worse on broad spectrum abx.
   Check DIC panel albeit platelet count normal, seems unlikely.
   5.  Diabetes: NPO overnight, SSRI.
   6. Cardiac: Large heart on imaging.  Given diabetes concerned about
   possible underlying ischemic cardiomyopathy.  No evidence of acute
   ischemia albeit cycle enzymes to be sure trending downward.  Echo in
   am.  Can't assess JVD given neck line.  CVP 11-16.  Monitor notable for
   occasional PVC, once 6-beat run VT.  K/Mg in normal range. Will repeat.
   Not hypoxic or acidotic.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2143-7-22**] 05:13 PM
   18 Gauge - [**2143-7-22**] 07:00 PM
   Arterial Line - [**2143-7-22**] 09:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 60 minutes
   Patient is critically ill

2143-07-24 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure requiring vent support
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   thrombocytopenia ? DIC - not on any heparin; pressure dropped into 70"s
   requiring levophed
   24 Hour Events:
 THORACENTESIS - At [**2143-7-23**] 02:15 PM
 BRONCHOSCOPY - At [**2143-7-23**] 02:46 PM
 TRANSTHORACIC ECHO - At [**2143-7-23**] 03:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2143-7-23**] 05:15 AM
   Ceftriaxone - [**2143-7-23**] 10:00 AM
   Azithromycin - [**2143-7-23**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-23**] 10:00 PM
   Midazolam (Versed) - [**2143-7-24**] 01:50 AM
   Fentanyl - [**2143-7-24**] 01:50 AM
   Other medications:
   chlorhexidine, colace, RISS, pantoprazole, thiamine, folate, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-24**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 94 (75 - 118) bpm
   BP: 100/59(69) {77/49(57) - 122/66(82)} mmHg
   RR: 16 (15 - 18) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95.7 kg (admission): 96.9 kg
   Height: 66 Inch
   CVP: 14 (8 - 16)mmHg
   CO/CI (CCO): (5.1 L/min) / (2.5 L/min/m2)
   SvO2: 76%
   Total In:
                                                                  4,918 mL
                                                                    412 mL
   PO:
   TF:
                                                                     20 mL
                                                                    157 mL
   IVF:
                                                                  3,612 mL
                                                                    255 mL
   Blood products:
                                                                  1,226 mL
   Total out:
                                                                  2,066 mL
                                                                    192 mL
   Urine:
                                                                    466 mL
                                                                    162 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
                                                                  1,600 mL
   Balance:
                                                                  2,852 mL
                                                                    220 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.38/48/154/27/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  ulers on shins, basal cell on bridge of nose
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   93 K/uL
   185 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   51 mg/dL
   112 mEq/L
   146 mEq/L
   38.0 %
   14.5 K/uL
        [image002.jpg]
                             [**2143-7-22**]  06:45 PM
                             [**2143-7-22**]  07:08 PM
                             [**2143-7-22**]  09:41 PM
                             [**2143-7-23**]  03:57 AM
                             [**2143-7-23**]  04:07 AM
                             [**2143-7-23**]  08:17 AM
                             [**2143-7-23**]  03:10 PM
                             [**2143-7-23**]  10:50 PM
                             [**2143-7-24**]  03:54 AM
                             [**2143-7-24**]  04:34 AM
   WBC
   14.2
   12.3
   14.5
   Hct
   41.7
   34.9
   36.7
   38.0
   Plt
   144
   81
   77
   93
   Cr
   1.0
   0.9
   0.9
   TropT
   0.04
   0.04
   TCO2
   29
   30
   29
   Glucose
   198
   185
   Other labs: PT / PTT / INR:22.0/39.1/2.1, CK / CKMB /
   Troponin-T:315/5/0.04, ALT / AST:262/302, Alk Phos / T Bili:58/3.7,
   Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:1.0
   %, Fibrinogen:187 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL,
   LDH:396 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: wbc - 650
   rbc - 5900
   prot 3.2
   glu 175
   LDH 308
   pH 7.81
   Bronch 77% polys, 5% lymphs
   Imaging: hypokinetic l ventricle with ef 20%
   Mural thrombus
   CXR - increased interstitial markings, large r effusion persists
   Assessment and Plan
   1.  Hypercapneic and hypoxic respiratory failure without known prior
   lung disease.  Large right layering pleural effusion with compression
   atelectasis vs. pneumonia underlying fluid.  Given fever and elevated
   WBC concerned about underlying infection with parapneumonic effusion.
   Cover broadly for community acquired organisms.  Wean Fi02 to maintain
   Sa02 > 93. Remain concerned about possible underlying malignancy.
   Effusion is exudate with high pH - will not put in chest tube
   2. CHF given cardiomegaly/underlying diabetes at risk for silent
   ischemia and ECHO findings of mural thrombus low EF. Check enzymes,
   EKG. Needs to keep even or diurese today as BP allows
   3. Thrombocytopenia - ? DIC also concerned about vasculitis, ANCA,
   Anti-GBM, [**Doctor First Name 1205**], Antiphospholipid AB pending
   4.  Hypotension:  Now on pressors, concerned about new MI; possible
   sepsis
   5.  Acute renal failure without knowledge of baseline.  Is a chronic
   diabetic.  Likley prerenal component given intravascular depletion.  IV
   fluids.  Urine electrolytes.
   6. Transaminitis:  Could be related to right sided congestion vs. shock
   liver .  Denies alcohol.  Also has coagulopathy.  hepatitis serologies
   pending.  vitamin K given.
   7. Basal Cell CA on bridge of nose
   8.  Diabetes: RISS, tube feeds
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2143-7-23**] 10:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2143-7-22**] 05:13 PM
   18 Gauge - [**2143-7-22**] 07:00 PM
   Arterial Line - [**2143-7-22**] 09:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2143-07-25 09:21:00 Physician Attending Progress Note
Chief Complaint: Resp Failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2143-7-24**] 10:00 AM
   Failed Dopa Trial and put back on Levophed - tachy - changed to Neo
   Oliguric after midnight, no incr despite incr fluids, lactate to 2.3
   Non-sustained VT - recurrent
   Seen by cardiology
   ANCA - neg
   [**Doctor First Name 1205**] weakly pos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2143-7-23**] 05:15 AM
   Ceftriaxone - [**2143-7-24**] 10:00 AM
   Azithromycin - [**2143-7-24**] 10:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-24**] 10:00 PM
   Midazolam (Versed) - [**2143-7-25**] 01:30 AM
   Other medications:
   miconazole, chlorhexidine, colace, NPH, RISS, pantoprazole, thiamine,
   folate, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-25**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 93 (88 - 124) bpm
   BP: 93/56(66) {85/47(57) - 143/70(89)} mmHg
   RR: 16 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.7 kg (admission): 96.9 kg
   Height: 66 Inch
   CVP: 16 (14 - 20)mmHg
   CO/CI (CCO): (5.1 L/min) / (2.5 L/min/m2)
   Total In:
                                                                  1,773 mL
                                                                  1,177 mL
   PO:
   TF:
                                                                    725 mL
                                                                    399 mL
   IVF:
                                                                    944 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    116 mL
   Urine:
                                                                    825 mL
                                                                    116 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    918 mL
                                                                  1,061 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 76
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.39/42/82.[**Numeric Identifier 96**]/26/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Unchanged
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   87 K/uL
   280 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   52 mg/dL
   110 mEq/L
   143 mEq/L
   40.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2143-7-23**]  08:17 AM
                             [**2143-7-23**]  03:10 PM
                             [**2143-7-23**]  10:50 PM
                             [**2143-7-24**]  03:54 AM
                             [**2143-7-24**]  04:34 AM
                             [**2143-7-24**]  03:55 PM
                             [**2143-7-24**]  11:32 PM
                             [**2143-7-25**]  12:00 AM
                             [**2143-7-25**]  04:41 AM
                             [**2143-7-25**]  05:00 AM
   WBC
   12.3
   14.5
   15.6
   14.1
   Hct
   34.9
   36.7
   38.0
   40.1
   40.7
   Plt
   81
   77
   93
   78
   87
   87
   Cr
   0.9
   0.9
   TropT
   0.04
   0.04
   TCO2
   29
   26
   26
   Glucose
   185
   280
   Other labs: PT / PTT / INR:22.7/41.5/2.2, CK / CKMB /
   Troponin-T:315/3/0.04, ALT / AST:289/332, Alk Phos / T Bili:65/4.9,
   Amylase / Lipase:[**12-15**], Differential-Neuts:86.7 %, Band:2.0 %,
   Lymph:7.4 %, Mono:5.7 %, Eos:0.1 %, Fibrinogen:187 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.4 g/dL, LDH:396 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   1.  Hypercapneic and hypoxic respiratory failure without known prior
   lung disease.  Large right layering pleural effusion with compression
   atelectasis vs. pneumonia underlying fluid.  Given fever and elevated
   WBC concerned about underlying infection with parapneumonic effusion.
   Cover broadly for community acquired organisms.  Wean Fi02 to maintain
   Sa02 > 93. Remain concerned about possible underlying malignancy.
   Effusion is exudate with high pH - will not put in chest tube
   7.39/42/83 on full vent support
   Consider adding zyprexa/haldol for agitation
   2. CHF given cardiomegaly/underlying diabetes at risk for silent
   ischemia and ECHO findings of mural thrombus low EF.  Needs to keep
   even or diurese today as BP allows
   3. Thrombocytopenia - ? DIC also concerned about vasculitis, ANCA, [**Doctor First Name 1205**]
   negative
       Antiphospholipid AB pending
   4.  Hypotension:  Continuing on pressors, concerned about new MI;
   possible sepsis no clear source
   5.  Acute renal failure without knowledge of baseline.  Likley prerenal
   component given intravascular depletion, creatinin estable but urine
   output diminishing.
   6. Transaminitis:  Cards believes related to right sided congestion.
   Has coagulopathy.  vitamin K given.
   7. Basal Cell CA on bridge of nose
   8.  Diabetes: RISS, tube feeds
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2143-7-25**] 05:18 AM 44.[**Telephone/Fax (3) 3368**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2143-7-22**] 05:13 PM
   Arterial Line - [**2143-7-22**] 09:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2143-07-30 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2143-7-29**] 04:06 PM
   Azithromycin - [**2143-7-29**] 10:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-7-29**] 08:04 AM
   Fentanyl - [**2143-7-30**] 03:45 AM
   Midazolam (Versed) - [**2143-7-30**] 03:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-30**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (63 - 107) bpm
   BP: 95/52(63) {87/50(62) - 135/68(87)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.7 kg (admission): 96.9 kg
   Height: 66 Inch
    CVP: 12 (8 - 20)mmHg
   Total In:
                                                                  2,013 mL
                                                                    366 mL
   PO:
   TF:
                                                                  1,075 mL
                                                                    281 mL
   IVF:
                                                                    848 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    404 mL
   Urine:
                                                                  1,100 mL
                                                                    404 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    898 mL
                                                                    -38 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   12.5 g/dL
   170 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.9 mEq/L
   45 mg/dL
   113 mEq/L
   148 mEq/L
   39.2 %
   14.0 K/uL
        [image002.jpg]
                             [**2143-7-27**]  04:17 AM
                             [**2143-7-27**]  08:13 AM
                             [**2143-7-28**]  05:02 AM
                             [**2143-7-28**]  05:23 AM
                             [**2143-7-28**]  06:57 AM
                             [**2143-7-28**]  02:16 PM
                             [**2143-7-29**]  04:13 AM
                             [**2143-7-29**]  04:31 AM
                             [**2143-7-29**]  04:39 AM
                             [**2143-7-30**]  04:29 AM
   WBC
   12.8
   11.8
   14.0
   Hct
   38.2
   37.8
   39.2
   Plt
   62
   68
   87
   Cr
   0.6
   0.6
   0.6
   TCO2
   32
   30
   32
   32
   31
   32
   Glucose
   123
   134
   170
   Other labs: PT / PTT / INR:17.6/27.2/1.6, CK / CKMB /
   Troponin-T:315/3/0.04, ALT / AST:103/76, Alk Phos / T Bili:134/4.9,
   Amylase / Lipase:[**12-15**], Differential-Neuts:89.8 %, Band:0.0 %,
   Lymph:5.7 %, Mono:4.2 %, Eos:0.1 %, D-dimer:7224 ng/mL, Fibrinogen:221
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:432 IU/L, Ca++:7.3
   mg/dL, Mg++:2.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: 68 yo male with DM receiving no medical care over the past 2 years
   presents with 1 week SOB found to have a large right sided pleural
   effusion with sanguinous lung tissue via BAL, now vent dependent with
   resolving thrombocytopenia and transaminitis.  It seems most likely
   that his shock was cardiogenic in origin.
   # Shock - Most likely cardiogenic in nature.  Likely secondary to
   silent MIs in the setting of DM automic neuropathy.  Blood cultures to
   date have shown no growth.  Continuing to support patient in hopes that
   some of his myocardium is stunned from ischemic insult and will have
   functional improvement.  Patient
s myocardial function has not
   improved, and he is currently 2 weeks out from initial insult.
   Unlikely that he will regain much function.  Family discussion planned
   for tomorrow.  Discussed need for discussion of goals of care with
   patient
s sister, and she said the family would make an effort to come
   in tomorrow.
   - hypotension and decreased urine output which have been reponsive to
   fluid over the past 24 hours.  Patient is 18 L positive over admission
   and third spacing much of fluid.  Would like to start diuresis but BP
   won
t tolerate.
   - f/u blood Cx ([**7-22**]) still pending
   - Pleural cx negative
   - BAL cx negative
   - Ceftriaxone and azithromycin restarted yesterday after PM rounds.
   # Hypoxic respiratory failure: Likely secondary to sanguinous lung
   tissue.  Continue on vent.
   # Sedation: Became agitated overnight requiring sedation.
   - Continue Versed and fentanyl drips and Haldol PRN for sedation.
   # Coagulopathy: Has elevated PT and PTT and INR. He is not on any known
   anticoagulation. Most likely due to shock liver.
   - Continue to follow coags (INR 1.7)
   # Thrombocytopenia
 Plt today at 68.  Were 219 on [**7-22**] at 62 on [**7-28**].
   He has not received heparin or LMWH.  Possible etiologies include DIC,
   liver failure, or drug related (ceftriaxone, less likely azithro).
   Continue to follow.
   # Oliguria - AM creatinine 0.6.
   - 24 hour UOP 840cc
   - Continue to renally dose meds
   - Continue to trend UOP and Cr.
   # Bilateral LE ulcerations:  diagnosed by tissue bx as pyoderma
   gangrenosum.  Derm recommends treating once his more actue issues have
   resolved.   Tx is  high dose steroids Prednisone 100mg PO daily for [**1-30**]
   weeks and then slow taper.  PG is typically associated with UC, certain
   rheum conditions and certain maligancies.  He is not known to have any
   of these conditions.
   # nasal lesion: likely basal cell.  Can be treated as outpatient once
   acute issues resolved.
   # Elevated LFTS: Most likely shock liver (congestive hepatopathy) in
   the setting of hypotension and CHF. Hep serologies negative except for
   Hep A Ab.  LFTs this AM trending down at  ALT, AST 121/98.
   - Continue to trend LFTs
   # CHF
   - Per cardiology, patient had CO of about 5 prior to his
   hospitalization.
   # Pannus rash: Appears to have chronic fungal infection with purple
   petechial appearing rash
   - miconazole powder TID
   - Check for wound care recs
   # Diabetes: D/C insulin drip and switch to NPH and insulin sliding
   scale.   Serum glucose ranging between 79-160.
   # FEN: NG Tube, oral meds.
   # PPX: Has elevated INR and dropping Plt counts.  Discussed with team
   and feel that currently should not anticoagulate for DVT prophylaxis.
   SCDs also not warranted secondary to patient
s leg ulcers.  PPI.
   # Contact: brother [**Name (NI) 3326**] [**Name (NI) **] [**Telephone/Fax (1) 3327**]. Oldest sister [**Name (NI) **] [**Name (NI) 3328**]
   [**Telephone/Fax (1) 3329**] will be in tomorrow and most likely would be the one to
   make decisions per his brother, but he has no HCP.
   # Code: Currently DNR.
   # Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2143-7-29**] 12:58 PM 44.[**Telephone/Fax (5) 3430**] mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2143-7-22**] 05:13 PM
   Arterial Line - [**2143-7-22**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: